US04808601
5,6-Difluoro-2-oxindole
Reaction of 3,4-difluoroaniline with chloral hydrate and hydroxylamine followed cyclization with sulfuric acid, in a manner analogous to Parts A and B of Preparation 9, gave 5,6-difluoroisatic, which was reacted with hydrazine hydrate followed by sodium methoxide in ethanol, in a manner analogous to Preparation 7, to give the title compound, m.p. 187°-190° C.

reactant | 3,4-difluoroaniline | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | chloral hydrate | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | hydroxylamine | NO | H3NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrazine hydrate | O.NN
reactant | sodium methoxide | C[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5,6-Difluoro-2-oxindole | FC=1C=C2CC(NC2=CC1F)=O | C8H5F2NO
